US07208524B2
5-Cyano-N-[2-(2-hydrazinocarbonylmethoxy-4-isopropylphenyl)ethyl]-2-hydroxybenzenesulfonamide (0.258 g) was dissolved in 10 mL of tetrahydrofuran. To the stirred solution was added 0.177 g of triphosgene under ice-cooling, and the mixture was stirred at room temperature for 30 minutes. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure to give 0.26 g of 5-cyano-2-hydroxy-N-[2-[4-isopropyl-2-(5-oxo-4,5-dihydro[1,3,4]-oxadiazol-2-ylmethoxy)phenyl]ethyl]benzenesulfonamide.

reactant | 5-Cyano-N-[2-(2-hydrazinocarbonylmethoxy-4-isopropylphenyl)ethyl]-2-hydroxybenzenesulfonamide | 0.258 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)OCC(=O)NN)O | C20H24N4O5S
reactant | triphosgene | 0.177 g | ClC(Cl)(OC(OC(Cl)(Cl)Cl)=O)Cl | C3Cl6O3
reactant | water | O | H2O
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 5-cyano-2-hydroxy-N-[2-[4-isopropyl-2-(5-oxo-4,5-dihydro[1,3,4]-oxadiazol-2-ylmethoxy)phenyl]ethyl]benzenesulfonamide | 0.26 g | C(#N)C=1C=CC(=C(C1)S(=O)(=O)NCCC1=C(C=C(C=C1)C(C)C)OCC=1OC(NN1)=O)O | C21H22N4O6S
